US07189851B2
Ethyl 4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}-1,3-oxazol-2-yl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′, 2′:1,2]pyrazolo[3,4-b]pyridine-3-carboxylate
2-(3-(ethoxycarbonyl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′,2′:1,2]pyrazolo[3,4-b]pyridin-4-yl)-1,3-oxazole-4-carboxylic acid (0.076 g, 0.143 mmol) was dissolved in CH2Cl2 (2 mL). R-(−)-1-aminoindane (0.018 mL, 0.215 mmol) was added followed by EDCI (0.033 g, 0.172 mmol) and HOBt (0.023 g, 0.172 mmol). After 14 h of stirring at ambient temperature the reaction mixture was poured onto 5% HCl solution and extracted with CH2Cl2. The organics were washed with sat'd NaHCO3, brine and then dried (Na2SO4), filtered and concentrated to a yellow residue. Chromatography on silica gel using 9:1 EtOAc:Hexanes eluted the product to provide the title compound upon concentration as a white solid (0.046 g, 0.0.071 mmol, 50% yield): 1H NMR (CDCl3, 400 MHz) 8.44 (s, 1H), 7.49 (d, J=7.9 Hz, 2H), 7.29–7.12 (m, 6H), 5.64 (dd, J=15.7, 7.6 Hz, 1H), 4.58 (d J=5.9 Hz, 2H), 4.07 (dd, J=14.3, 7.0 Hz, 2H), 3.99–3.91 (m, 4H), 3.24–3.10 (m, 4H), 3.04–2.97 (m, 1H), 2.92–2.84 (m, 1H), 1.93–1.87 (m, 1H), 1.04 (t, J=7.1 Hz, 3H); ESMS m/z 646 (M+H)+, 644 (M−H)+ Anal. Calcd. For C34H30F3N5O5.½H2O: C, 62.38; H, 4.77; N, 10.70; found: C, 62.59; H, 4.74; N, 10.58.

reactant | 2-(3-(ethoxycarbonyl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′,2′:1,2]pyrazolo[3,4-b]pyridin-4-yl)-1,3-oxazole-4-carboxylic acid | 0.143 mmol, 0.076 g | C(C)OC(=O)C=1C(=C2C(=NC1CCC1=CC=C(C=C1)C(F)(F)F)N1N(C2=O)CCC1)C=1OC=C(N1)C(=O)O | C25H21F3N4O6
reactant | EDCI | 0.172 mmol, 0.033 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.172 mmol, 0.023 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(4-{[(1R)-2,3-dihydro-1H-inden-1-ylamino]carbonyl}-1,3-oxazol-2-yl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-8,9-dihydro-5H,7H-pyrazolo[1′, 2′:1,2]pyrazolo[3,4-b]pyridine-3-carboxylate | 50% yield | [C@H]1(CCC2=CC=CC=C12)NC(=O)C=1N=C(OC1)C1=C2C(=NC(=C1C(=O)OCC)CCC1=CC=C(C=C1)C(F)(F)F)N1N(C2=O)CCC1 | C34H30F3N5O5
